US04486425
A mixture of 7.65 g of benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl]-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate, 25 ml of methylene chloride, 5 ml of anisole and 20 ml of trichloroacetic acid was allowed to react at room temperature for 30 minutes. At the end of this time, 300 ml of diisopropyl ether were added to the reacton mixture and the resulting precipitates were collected by filtration, giving 5.95 g of 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid.

reactant | benzhydryl 7-[2-(2-chloroacetamidothiazol-4-yl]-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | 7.65 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C30H28ClN5O7S2
reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trichloroacetic acid | 20 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylic acid | 5.95 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=NOC | C17H18ClN5O7S2
